US07935699B2
A solution of (R)-3-cyclopentyl-2-(3-chloro-4-cyclopentylsulfanyl-phenyl)-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide (1.5 mmol) in dioxane (5 mL) is treated with a 9 N aqueous sulfuric acid solution (1.5 mL). The resulting solution is then heated at 105° C. for 16 h. The reaction is then cooled and diluted with water (13 mL) and extracted with a chloroform/methanol solution (3:2, 3×20 mL) and then combined the organic extracts and dried over magnesium sulfate, filtered and concentrated. Purification on an AnaLogix Intelliflash system (silica gel column) will afford (R)-2-(3-chloro-4-cyclopentylsulfanyl-phenyl)-3-cyclopentyl-propionic acid.

reactant | (R)-3-cyclopentyl-2-(3-chloro-4-cyclopentylsulfanyl-phenyl)-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide | 1.5 mmol | C1(CCCC1)C[C@@H](C(=O)N(C)[C@@H]([C@@H](C1=CC=CC=C1)O)C)C1=CC(=C(C=C1)SC1CCCC1)Cl | C29H38ClNO2S
reactant | sulfuric acid | 9 N, 1.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 13 mL | O | H2O
product | (R)-2-(3-chloro-4-cyclopentylsulfanyl-phenyl)-3-cyclopentyl-propionic acid | ClC=1C=C(C=CC1SC1CCCC1)[C@H](C(=O)O)CC1CCCC1 | C19H25ClO2S
